US08558005B2
2033.5 g of 49 mass % hydrobromic acid was added dropwise to 145.6 g of 2,4-dinitroimidazole wetted with p-xylene (wetted with 12 mass % of p-xylene). The temperature of the reaction liquid was elevated to 100° C. and reacted for 5 hours. After the reaction ended, the reaction liquid was gradually neutralized with 2000 mL of a saturated sodium hydrogen carbonate aqueous solution while the solution was cooled to deposit crystals. After the crystals were filtered, the crystals were heated and dissolved in 3000 mL of water at 95° C. and 75.0 g of 2-bromo-4-nitroimidazole (yield 47.6%) (HPLC purity 100%) was obtained by cooling, filtration and drying. This was identified to be 2-bromo-4-nitroimidazole by

reactant | hydrobromic acid | Br | BrH
reactant | 2,4-dinitroimidazole | 145.6 g | [N+](=O)([O-])C=1NC=C(N1)[N+](=O)[O-] | C3H2N4O4
reactant | sodium hydrogen carbonate | 2000 mL | C(O)([O-])=O.[Na+]
solvent | p-xylene | CC=1C=CC(=CC1)C | C8H10
product | 2-bromo-4-nitroimidazole | 75.0 g, yield 47.6% | BrC=1NC=C(N1)[N+](=O)[O-] | C3H2BrN3O2
